US06713490B2
B. 6-{1-Hydroxy-2-[4-hydroxy-4-(3-methoxyphenyl)-1-piperidinyl]ethyl}-3,4-dihydroquinolin-2(1H)-one
To a stirred solution of sodium borohydride (1.15 g, 30.3 mmol) in ethanol (100 ml) was added suspension of 6-{[4-Hydroxy-4-(3-methoxyphenyl)-1-piperidinyl]acetyl}-3,4-dihydroquinolin-2(1H)-one (5.98 g, 15.2 mmol) in ethanol (40 ml) at 0° C. and the reaction mixture was stirred at room temperature overnight. The precipitate was filtered and added to methanol (20 ml). The precipitate was collected by filtration to afford the title compound (4.13 g, 69%) as a white solid.

reactant | sodium borohydride | 30.3 mmol, 1.15 g | [BH4-].[Na+]
reactant | 6-{[4-Hydroxy-4-(3-methoxyphenyl)-1-piperidinyl]acetyl}-3,4-dihydroquinolin-2(1H)-one | 15.2 mmol, 5.98 g | OC1(CCN(CC1)CC(=O)C=1C=C2CCC(NC2=CC1)=O)C1=CC(=CC=C1)OC | C23H26N2O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 6-{1-Hydroxy-2-[4-hydroxy-4-(3-methoxyphenyl)-1-piperidinyl]ethyl}-3,4-dihydroquinolin-2(1H)-one | 4.13 g, 69% | OC(CN1CCC(CC1)(C1=CC(=CC=C1)OC)O)C=1C=C2CCC(NC2=CC1)=O | C23H28N2O4
